US05880259
A clear solution of 3.73 g (7.08 mmoles) of Boc-D-Arg(Pbf)-OH (Bachem Feinchemikalien, cat. No A-3750) in 75 ml of dry NMP, comprising 0.85 ml (7.79 mmoles) of NMM was chilled to -10° C. under shaking. Then, 1.02 ml (7.79 mmoles) of IBCF diluted in 6 ml of CHCl3 were added drop-wise. After 30 minutes, a solution of 2.88 g (7.08 mmoles) of H-L-Thr(tBu)-L-Tyr(tBu)-OMe in 75 ml of CHCl3 was added drop-wise in 20 minutes. The reaction mixture was kept for 2 h at 0° C. and overnight at room temperature. The solvent was evaporated under vacuum and the crude material was purified by flash chromatography on silica gel column, using a mixture of AcOEt-hexane as eluent. There were thus obtained 5.58 g (6.08 mmoles, yield 86%) of Boc-D-Arg(Pbf)-D-Thr(tBu)-D-Tyr(tBu)-OMe, as pure oil (TLC and RP-HPLC).

reactant | Boc-D-Arg(Pbf)-OH | 7.08 mmoles, 3.73 g | N([C@H](CCCNC(NS(=O)(=O)C1=C(C)C(C)=C2OC(C)(C)CC2=C1C)=N)C(=O)O)C(=O)OC(C)(C)C | C24H38N4O7S
reactant | NMM | 7.79 mmoles, 0.85 ml | CN1CCOCC1 | C5H11NO
reactant | H-L-Thr(tBu)-L-Tyr(tBu)-OMe | 7.08 mmoles, 2.88 g | N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC | C22H36N2O5
solvent | NMP | 75 ml | CN1CCCC1=O | C5H9NO
solvent | CHCl3 | 6 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | Boc-D-Arg(Pbf)-D-Thr(tBu)-D-Tyr(tBu)-OMe | 6.08 mmoles, 5.58 g, yield 86% | N([C@H](CCCNC(NS(=O)(=O)C1=C(C)C(C)=C2OC(C)(C)CC2=C1C)=N)C(=O)N[C@H]([C@@H](OC(C)(C)C)C)C(=O)N[C@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC)C(=O)OC(C)(C)C | C46H72N6O11S
